US07790709B2
Preparation of (E)-N-Methyl-N-(3-methyl-benzofuran-2-ylmethyl)-3-[3-(2-morpholin-4-yl ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting methyl-(3-methyl-benzofuran-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3,-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.26 g, 91%) was prepared as an off-white solid: 1H NMR (500 MHz, DMSO-d6) δ 10.75 (br s, 1H), 10.11 (s, 1H), 8.39 (d, J=7.5 Hz, 1H), 7.99 (t, J=9.0 Hz, 1H), 7.59-7.47 (m, 3H), 7.29-7.17 (m, 3H), 5.01-4.57 (m, 4H), 3.97-3.95 (m, 2H), 3.81-3.71 (m, 4H), 3.60-3.51 (m, 2H), 3.41-3.31 (m, 2H), 3.21-2.91 (m, 5H), 2.26 (s, 3H); MS (ESI) m/e 490 (M+H)+.

reactant | methyl-(3-methyl-benzofuran-2-ylmethyl)amine | CNCC=1OC2=C(C1C)C=CC=C2 | C11H13NO
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-Methyl-N-(3-methyl-benzofuran-2-ylmethyl)-3-[3-(2-morpholin-4-yl ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 0.26 g, 91% | Cl.CN(C(\C=C\C1=CC2=C(NC(N(C2)CCN2CCOCC2)=O)N=C1)=O)CC=1OC2=C(C1C)C=CC=C2 | InChI=1S/C27H31N5O4.ClH/c1-19-22-5-3-4-6-23(22)36-24(19)18-30(2)25(33)8-7-20-15-21-17-32(27(34)29-26(21)28-16-20)10-9-31-11-13-35-14-12-31;/h3-8,15-16H,9-14,17-18H2,1-2H3,(H,28,29,34);1H/b8-7+;
